US05216026
Preparation of N-(4-chlorophenyl)-N'-cyclohexanesulfonylurea
The general method of procedure A was followed with cyclohexanesulfonamide (1.89 g), acetone (5 ml), 1N sodium hydroxide (11.6 ml). After stirring overnight at room temperature, the mixture was cooled in an ice bath and 4-chlorophenyl isocyanate (1.89 g) dissolved in acetone (5 ml) was added. The mixture was warmed to room temperature and stirred two days, filtered, and the separated white solid washed with water. The filtrates were combined and treated with glacial acetic acid (1 ml) followed by addition of water. The resulting solid was collected by filtration, washed with water and air dried to provide 2.57 g of a tan powder.

reactant | cyclohexanesulfonamide | 1.89 g | C1(CCCCC1)S(=O)(=O)N | C6H13NO2S
reactant | sodium hydroxide | 1N, 11.6 ml | [OH-].[Na+]
reactant | 4-chlorophenyl isocyanate | 1.89 g | ClC1=CC=C(C=C1)N=C=O | C7H4ClNO
solvent | acetone | 5 ml | CC(=O)C | C3H6O
solvent | acetone | 5 ml | CC(=O)C | C3H6O
product | N-(4-chlorophenyl)-N'-cyclohexanesulfonylurea | 2.57 g | ClC1=CC=C(C=C1)NC(=O)NS(=O)(=O)C1CCCCC1 | C13H17ClN2O3S
